US04443449
A solution of 4-chlorobenzyl cyanide (10 g) and 1,3-dibromopropane (7.5 ml) in dry dimethyl sulphoxide (12 ml) was added dropwise under nitrogen to a stirred mixture of sodium hydride (3.6 g) dispersed in mineral oil (3,6 g) and dimethylsulphoxide (70 ml) at a temperature in the range 30° to 35° C. The mixture was stirred at room temperature for two hours and then propan-2-ol (10 ml) and water (150 ml) were added dropwise. The mixture was filtered through a diatomaceous earth sold under the Registered Trade Mark CELITE and the solid residue washed with ether. The filtrate was extracted with ether and the ether phases combined, washed with water, dried and evaporated. 1-(4-chlorophenyl)-1-cyclobutanecarbonitrile (b.p. 116°-120° at 0.6 mm Hg) was isolated by distillation. This method is a modification of that described by Butler and Pollatz (J.Org.Chem., Vol. 36, No. 9, 1971, p. 1308).

reactant | 4-chlorobenzyl cyanide | 10 g | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | 1,3-dibromopropane | 7.5 ml | BrCCCBr | C3H6Br2
reactant | sodium hydride | 3.6 g | [H-].[Na+]
reactant | propan-2-ol | 10 ml | CC(C)O | C3H8O
solvent | dimethyl sulphoxide | 12 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 70 ml | CS(=O)C | C2H6OS
solvent | water | 150 ml | O | H2O
product | 1-(4-chlorophenyl)-1-cyclobutanecarbonitrile | ClC1=CC=C(C=C1)C1(CCC1)C#N | C11H10ClN
